US07820823B2
(4-Bromo-3-fluoro-phenyl)-carbamic Acid Benzyl Ester
To a solution of 10 g of 4-bromo-3-fluoroaniline (52 mmol) in 300 ml acetone were added successively 150 ml of a saturated sodium bicarbonate solution and at 0° C. 9 ml of benzyl chloroformate (63 mmol). The reaction was monitored by TLC. The acetone was evaporated, the residue extracted twice with ethyl acetate, washed with water and brine, dried and evaporated. The residue was crystallized from an ethyl acetate/hexane mixture.

reactant | 4-bromo-3-fluoroaniline | 52 mmol, 10 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 63 mmol, 9 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | (4-Bromo-3-fluoro-phenyl)-carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)Br)F)=O | C14H11BrFNO2
